US06040309
Ethyl 3-(chloro)-6-(hydroxymethyl)benzo[b]thiophene-2-carboxylate
Potassium carbonate (2 g) was added to a stirred solution of ethyl 3-chloro-6-[(methylcarbonyloxy)methyl]benzo[b]thiophene-2-carboxylate (Preparation 14, 2.65 g, 8.5 mmol) in ethanol (40 ml). The mixture was stirred at ambient temperature for 20 hours, then the solvent was removed under reduced pressure. The residue was partitioned between dichloromethane and water. The organic layer was separated and washed with more water, dried (magnesium sulfate), and evaporated under reduced pressure. The residue was flash chromatographed on silica gel using a gradient of 0-2% methanol in dichloromethane as eluant to give the title compound, which was crystallised from diethyl ether to give a colourless solid (1.66 g).

reactant | Potassium carbonate | 2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 3-chloro-6-[(methylcarbonyloxy)methyl]benzo[b]thiophene-2-carboxylate | 8.5 mmol, 2.65 g | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)COC(=O)C | C14H13ClO4S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Ethyl 3-(chloro)-6-(hydroxymethyl)benzo[b]thiophene-2-carboxylate | ClC=1C2=C(SC1C(=O)OCC)C=C(C=C2)CO | C12H11ClO3S
